US06063789
a) 4-Methylthio-6,7-dihvdrothieno[3,2-c]pyridine hydroiodide
To a stirred solution of phosphoric acid (205 g) at 175° C. was added dropwise 2-(2-thienyl)ethylisothiocyanate (R. V. Davies et al., J. Chem. Soc., Perkin l, 1976, 138). The solution was stirred for 1 h, poured onto ice/water (3 L), the mixture stirred for 3 h to decompose the phosphoric acid, extracted with chloroform, dried over magnesium sulphate and evaporated to give a dark oil which solidified on standing. This solid was taken up in acetone (250 ml) and iodomethane (12 ml) was added. The reaction mixture was stirred for 4 h and the solid was collected to give the title compound as a yellow solid (26 g), m.p. 184-187° C.

reactant | phosphoric acid | 205 g | P(O)(O)(O)=O | H3O4P
reactant | 2-(2-thienyl)ethylisothiocyanate | S1C(=CC=C1)CCN=C=S | C7H7NS2
reactant | iodomethane | 12 ml | IC | CH3I
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4-Methylthio-6,7-dihvdrothieno[3,2-c]pyridine hydroiodide | 26 g | I.CSC1=NCCC2=C1C=CS2 | InChI=1S/C8H9NS2.HI/c1-10-8-6-3-5-11-7(6)2-4-9-8;/h3,5H,2,4H2,1H3;1H
